US20010018452A1
P-1) {4,5-dimethyl-2-[1-(3-trifluoromethyl-phenyl)-ethylidene-amino-oxymethyl]-phenyl}-methoxyimino-acetic acid methylester
A solution of 3.15 g of {4,5-dimethyl-2-[1-(3-trifluoromethyl-phenyl)-ethylidene-amino-oxymethyl]-cyclohexa-1,4-dienyl}-methoxyimino-acetic acid methylester (as an E/Z-mixture in respect of the ethylidene-aminooxy double bond) in 40 ml of toluene is mixed with 2.0 g of 2,3-dichlor-5,6-dicyano-1,4-benzoquinone (DDQ), whereby a slight exothermic reaction is observed. After stirring for 4 hours at room temperature, the reaction mixture is filtered through Hyflo and the solvent is distilled off on a rotary evaporator. After purifying with diethyl ether/hexane (1:3) on silica gel, 2.6 g of the title compound are obtained as a yellowish oil.

reactant | {4,5-dimethyl-2-[1-(3-trifluoromethyl-phenyl)-ethylidene-amino-oxymethyl]-cyclohexa-1,4-dienyl}-methoxyimino-acetic acid methylester | 3.15 g | COC(C(=NOC)C1=C(CC(=C(C1)C)C)C(ON)=C(C)C1=CC(=CC=C1)C(F)(F)F)=O | C22H25F3N2O4
reactant | 2,3-dichlor-5,6-dicyano-1,4-benzoquinone | 2.0 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | {4,5-dimethyl-2-[1-(3-trifluoromethyl-phenyl)-ethylidene-amino-oxymethyl]-phenyl}-methoxyimino-acetic acid methylester | COC(C(=NOC)C1=C(C=C(C(=C1)C)C)C(ON)=C(C)C1=CC(=CC=C1)C(F)(F)F)=O | C22H23F3N2O4
